US06756512B2
8.1 g (0.05 mol) of 2,6-dichlorotoluene and 9.9 g (0.15 mol) of potassium hydroxide (85%) are heated in 40 ml of methanol in an autoclave at 160° C. for 20 hours, and the pressure rises to about 12 bar. After cooling, the reaction mixture is poured into about 250 ml of water and extracted three times with about 70 ml of dichloromethane. The united organic phases are dried over sodium sulphate and evaporated under reduced pressure. 3-Chloro-2-methylanisole is obtained as an oil (2.5 g, GC analysis: 37.1%, 12% of theory).

reactant | 2,6-dichlorotoluene | 0.05 mol, 8.1 g | ClC1=C(C(=CC=C1)Cl)C | C7H6Cl2
reactant | potassium hydroxide | 0.15 mol, 9.9 g | [OH-].[K+]
reactant | water | about 250 ml | O | H2O
reactant | methanol | 40 ml | CO | CH4O
product | 3-Chloro-2-methylanisole | ClC=1C(=C(C=CC1)OC)C | C8H9ClO
